US04634708
(d) trans-4,6,6a,7,8,12b-hexahydro-7-methylindolo[4,3-ab]-phenanthridine
2 g of (5aR*,6aS*,12bS*)-4,5,5a,6,6a,7,8,12b-octahydro-7-methylindolo[4,3-ab]phenanthridine are dissolved in 250 ml of methylene chloride. 20 g of actively precipitated manganese dioxide are subsequently suspended in the solution, and the suspension obtained is stirred at room temperature until thin-layer chromatography reveals no more educt. The reaction solution is then filtered over diatomaceous earth, concentrated and the resultant oil crystallised from methylene chloride. The crystalline title compound is obtained. It melts at 215°.

reactant | (5aR*,6aS*,12bS*)-4,5,5a,6,6a,7,8,12b-octahydro-7-methylindolo[4,3-ab]phenanthridine | 2 g | CN1[C@H]2C[C@@H]3C4=C([C@@H]2C2=CC=CC=C2C1)C=CC=C4NC3 | C19H20N2
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | trans-4,6,6a,7,8,12b-hexahydro-7-methylindolo[4,3-ab]-phenanthridine | CN1[C@H]2CC=3C4=C([C@@H]2C2=CC=CC=C2C1)C=CC=C4NC3 | C19H18N2
